US07855297B2
N-[(4-Dimethylaminophenyl)methyl]-7-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.5 g) and ethyl iodide (0.14 mL) were dissolved in dimethylformamide (5 mL), and sodium hydride (0.07 g) was added under ice-cooling. The mixture was stirred at room temperature for 24 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give N-[(4-dimethylaminophenyl)methyl]-7-ethoxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.27 g).

reactant | N-[(4-Dimethylaminophenyl)methyl]-7-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.5 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | ethyl iodide | 0.14 mL | C(C)I | C2H5I
reactant | sodium hydride | 0.07 g | [H-].[Na+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[(4-dimethylaminophenyl)methyl]-7-ethoxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.27 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OCC)C1=CC=C(C=C1)C(C)C)C | C31H38N2O2
